US06410729B1
a. 2-(4-Fluorophenyl)-3-(4-pyridyl)-acrylic acid
A mixture of 4-fluorophenylacetic acid (9 g, 58.4 mmol), 4-pyridinecarboxaldehyde (5.6 ml, 58.6 mmol), pyridine (6 ml) and acetic anhydride (6 ml) was heated at 150° C. for 1 h followed by evaporation and co-distillation with water. The resulting material crystallized on addition of ethanol. The solids were filtered and washed with ethanol and ethyl acetate to provide the title compound. MS (m/z): 244.0 (M+H)+; C14H10FNO2requir. 243.2 1H-NMR (DMSO-d6): d 8.43, 6.98 (2d, each 2H, Pyrid.), 7.73 (s, 1H, CH═), 7.21 (d, 4H, PhF).

reactant | 4-fluorophenylacetic acid | 58.4 mmol, 9 g | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
reactant | 4-pyridinecarboxaldehyde | 58.6 mmol, 5.6 ml | N1=CC=C(C=C1)C=O | C6H5NO
reactant | acetic anhydride | 6 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | 2-(4-Fluorophenyl)-3-(4-pyridyl)-acrylic acid | FC1=CC=C(C=C1)C(C(=O)O)=CC1=CC=NC=C1 | C14H10FNO2
